US05693811
Anthranilic acid (274.3 g) and acetic anhydride (1.1 L) were combined then heated at reflux for 3.5 hours. The reaction mixture was concentrated under vacuum. The residue was combined with methanol (550 mL) then concentrated under vacuum to provide 2-methyl-4oxo-3,1-benzoxazine as a brown oil.

reactant | Anthranilic acid | 274.3 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | acetic anhydride | 1.1 L | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4oxo-3,1-benzoxazine | CC1=NC2=C(C(O1)=O)C=CC=C2 | C9H7NO2
